US08664258B2
Preparation of 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline
A solution of sodium hydroxide (70 mg, 1.74 mmol) in water (0.15 mL) was added to a suspension of N-(3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)acetamide (84 mg, 0.29 mmol) in methanol (1 mL) and the mixture was stirred at 140° C. in a screw capped vial for 90 min. The mixture was allowed to cool to room temperature, and the solvent was removed under reduced pressure. The residue was partitioned between dichloromethane and water, the organic layer was dried with sodium sulfate, filtered and evaporated to dryness to afford the title compound (62 mg, 0.21 mmol, 74%) as a yellow oil which was used without further purification. LCMS m/z (%)=291.3 (M+H 98%).

reactant | sodium hydroxide | 1.74 mmol, 70 mg | [OH-].[Na+]
reactant | N-(3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)phenyl)acetamide | 0.29 mmol, 84 mg | CN1N=CC=C1C=1C=C(C=CC1OCC(C)([N+](=O)[O-])C)NC(C)=O | C16H20N4O4
solvent | water | 0.15 mL | O | H2O
solvent | methanol | 1 mL | CO | CH4O
product | 3-(2-methyl-2H-pyrazol-3-yl)-4-(2-methyl-2-nitropropoxy)aniline | 0.21 mmol, 62 mg, 74% | CN1N=CC=C1C=1C=C(N)C=CC1OCC(C)([N+](=O)[O-])C | C14H18N4O3
